US07915281B2
Under a nitrogen atmosphere, pyridine hydrochloride (1.6 g, 14 mmol), trimethyl orthobutyrate (1.62 g, 11.0 mmol), 2-chloro-N4-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}quinoline-3,4-diamine (2.10 g, 5.49 mmol), and toluene (50 mL) were combined and heated at reflux for four hours under a Dean-Stark trap. The volatiles were removed under reduced pressure. The resulting oil was dissolved in ethyl acetate, and the solution was washed sequentially with aqueous potassium carbonate, water, and brine; dried over sodium sulfate; filtered; and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 4:6 hexane:ethyl acetate) to provide 1.22 g of 4-chloro-1-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-2-propyl-1H-imidazo[4,5-c]quinoline as a pale yellow solid.

reactant | pyridine hydrochloride | 14 mmol, 1.6 g | Cl.N1=CC=CC=C1
reactant | trimethyl orthobutyrate | 11.0 mmol, 1.62 g | C(CCC)(OC)(OC)OC | C7H16O3
reactant | 2-chloro-N4-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}quinoline-3,4-diamine | 5.49 mmol, 2.10 g | ClC1=NC2=CC=CC=C2C(=C1N)NCCC1=CC(=NO1)C1=CC=C(C=C1)F | C20H16ClFN4O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-1-{2-[3-(4-fluorophenyl)isoxazol-5-yl]ethyl}-2-propyl-1H-imidazo[4,5-c]quinoline | 1.22 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCC2=CC(=NO2)C2=CC=C(C=C2)F)CCC | C24H20ClFN4O
